US06420131B1
Fluorescein (40 g, 120.5 mmol) was dissolved in dimethylformamide (DMF, 500 mL) in a 2 L flask fitted with a mechanical stirrer then potassium carbonate (72 g, 521.7 mmol) was added in as a single portion. The reaction was heated to 80° C. then benzyl chloride (42 mL, 363.5 mmol) was added dropwise. After 24 h at 80° C. the reaction was cooled down to room temperature. Acetone (400 mL) was added and the product was allowed to precipitate overnight. The solid orange product was filtered, washed with acetone and dried in a vacuum oven at 50° C. The O-benzylfluorescein benzyl ester was obtained as an orange solid (36.4 g, 59%): mp 192-193° C. (Lit. 193-194° C.); 1H NMR (DMSO-d6): 4.97 (dd, 2H, J=12.2 Hz, J=15.3 Hz), 5.28 (s, 2H), 6.13 (d, 1H, J=1.9 Hz), 6.36 (dd, 1H, J=9.9 Hz), 6.77 (d, 1H, J=9.9 Hz), 6.82 6.77 (d, 1H, J=9.0 Hz), 6.90-6.98 (m, 3H), 7.14-7.27 (m, 4H), 7.33-7.52 (m, 6H), 7.78 (dt, 1H, J=1.65 Hz, J=7.4 Hz), 8.23 (dd, 1H, J=1.35 Hz, J=7.7 Hz); 13C NMR (DMSO-d6): 67.4, 70.7, 101.9, 105.2, 114.7, 115.0, 117.3, 128.3, 128.5, 128.7, 128.8, 128.9, 129.4, 130.0, 130.2, 130.6, 130.8, 131.2, 131.4, 133.8, 134.1, 135.3, 136.6, 150.1, 153.9, 158.7, 163.3, 165.5, 184.4; IR (nujol) cm−1 1728, 1643, 1595, 1517, 1462, 1377, 1261, 1211, 1081, 855. C34H24O5: Calc.(C, 79.67; H, 4.72) Found (C, 79.74; H, 4.79).

reactant | Fluorescein | 120.5 mmol, 40 g | C=1C=CC(=C(C1)C2=C3C=CC(=O)C=C3OC4=C2C=CC(=C4)O)C(=O)O | C20H12O5
reactant | potassium carbonate | 521.7 mmol, 72 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | 363.5 mmol, 42 mL | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | Acetone | 400 mL | CC(=O)C | C3H6O
solvent | dimethylformamide | 500 mL | CN(C=O)C | C3H7NO
product | O-benzylfluorescein benzyl ester | C1=CC=C(C=C1)COC2=CC3=C(C=C2)C(=C4C=CC(=O)C=C4O3)C5=CC=CC=C5C(=O)OCC6=CC=CC=C6 | C34H24O5
